US06071928
7-Benzyl-3-tributylstannyl-1-oxa-7-azaspiro[4.5]dec-3-ene
Diethyl azodicaboxylate (3.1 ml, 19.7 mmol) was added dropwise to a solution of 1-benzyl-3-(3-hydroxy-2-tributylstannyl-1-propen-1-yl)piperidin-3-ol (Desc. 2; 8.72 g, 16.26 mmol) and triphenylphosphine (5.12 g, 19.5 mmol) in tetrahydrofuran (100 ml) at -5° C. The cooling bath was removed and the reaction mixture stirred for 45 minutes. The solvent was evaporated, the residue dissolved in acetonitrile (300 ml) and extracted with hexane (3×150 ml). The combined hexane extracts were evaporated and the residue chromatographed on silica, eluting with ethyl acetate/hexane (1:9 then 1:4), to afford the title compound as a colourless oil (5.00 g, 59%); δH (250 MHz, CDCl3) 0.87-0.96 (15 H, m), 1.25-1.35 (6H, m), 1.45-1.60 (11H, m), 1.79 (1H, m), 2.29-2.48 (4H, m), 3.48 (1H, d, J 13.3Hz, NCHZCHBPh), 3.59 (1H, d, J 13.3Hz, NCHACHBPh), 4.67 (2H, m, 2-CH2), 6.03 (1H, br s, 4-CH=), 7.22-7.30 (5H, m ArH).

reactant | Diethyl azodicaboxylate | 19.7 mmol, 3.1 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 1-benzyl-3-(3-hydroxy-2-tributylstannyl-1-propen-1-yl)piperidin-3-ol | 16.26 mmol, 8.72 g | C(C1=CC=CC=C1)N1CC(CCC1)(O)C=C(CO)[Sn](CCCC)(CCCC)CCCC
reactant | triphenylphosphine | 19.5 mmol, 5.12 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 7-Benzyl-3-tributylstannyl-1-oxa-7-azaspiro[4.5]dec-3-ene | 5.00 g, 59% | C(C1=CC=CC=C1)N1CC2(C=C(CO2)[Sn](CCCC)(CCCC)CCCC)CCC1 | InChI=1S/C15H18NO.3C4H9.Sn/c1-2-6-14(7-3-1)12-16-10-4-8-15(13-16)9-5-11-17-15;3*1-3-4-2;/h1-3,6-7,9H,4,8,10-13H2;3*1,3-4H2,2H3;
